US08357802B2
Preparation of Buprenorphine Hydrochloride
To a solution of buprenorphine (5.1 g, 11 m mol) in ethanol (60 ml) at 50-60° C. is added concentrated hydrochloric acid to pH 2.5, the heating is maintained at 50-60° C. for 2 hours, and cooled to 10-15° C. The mixture is filtered to collect the solid. The solid is washed with cold ethanol and dried at 80° C. under 25 inch Hg of vacuum for 4 hours to give the final product (expected yield: 5.3 g; 96% Yield). This product is identical to a USP standard of Buprenorphine Hydrochloride.

reactant | buprenorphine | 5.1 g | C[C@]([C@H]1C[C@@]23CC[C@]1([C@H]4[C@@]25CCN([C@@H]3CC6=C5C(=C(C=C6)O)O4)CC7CC7)OC)(C(C)(C)C)O | C29H41NO4
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | Buprenorphine Hydrochloride | 96% Yield | C[C@]([C@H]1C[C@@]23CC[C@]1([C@H]4[C@@]25CCN([C@@H]3CC6=C5C(=C(C=C6)O)O4)CC7CC7)OC)(C(C)(C)C)O.Cl | InChI=1S/C29H41NO4.ClH/c1-25(2,3)26(4,32)20-15-27-10-11-29(20,33-5)24-28(27)12-13-30(16-17-6-7-17)21(27)14-18-8-9-19(31)23(34-24)22(18)28;/h8-9,17,20-21,24,31-32H,6-7,10-16H2,1-5H3;1H/t20-,21-,24-,26+,27-,28+,29+;/m1./s1
